US07939533B2
a) N-(6-Chloro-4-o-tolyl-pyridin-3-yl)-2-(3,5-dihydroxy-phenyl)-N-methyl-isobutyramide
To a solution of 2.8 g (6.4 mmol) N-(6-chloro-4-o-tolyl-pyridin-3-yl)-2-(3,5-dimethoxy-phenyl)-N-methyl-isobutyramide in 70 ml CH2Cl2 19 ml (19 mmol) BBr3 (1 M in CH2Cl2) were added at 0° C. The reaction mixture was allowed to reach ambient temperature and stirred for 15 h After addition of 50 ml water the mixture was extracted with three portions of dichloromethane. The combined organic extracts were dried (Na2SO4), filtered and evaporated. The residue was purified by flash-chromatography (SiO2, CH2Cl2/methanol) to give 2.5 g (95%) of the title compound as a white foam.

reactant | N-(6-chloro-4-o-tolyl-pyridin-3-yl)-2-(3,5-dimethoxy-phenyl)-N-methyl-isobutyramide | 6.4 mmol, 2.8 g | ClC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)OC)OC)=O)C)C1=C(C=CC=C1)C | C25H27ClN2O3
reactant | CH2Cl2 | 19 mmol, 1 M, 70 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | N-(6-Chloro-4-o-tolyl-pyridin-3-yl)-2-(3,5-dihydroxy-phenyl)-N-methyl-isobutyramide | 2.5 g, 95% | ClC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)O)O)=O)C)C1=C(C=CC=C1)C | C23H23ClN2O3
